US06169090A
4-Bromo-7-methoxy-2-(4-methoxypiperidin-4-yl)furo[2,3-c]pridine
4-(4-Bromo-7-methoxyfuro[2,3-c]pyridin-2-yl)-4-methoxypiperidine-1-carboxylic acid tert-butyl ester (1.5 g), dichloromethane (50 ml) and trifluoroacetic acid (5 ml ) were combined and stirred at room temperature for 3 hours. The reaction mixture was then diluted with 1N sodium hydroxide solution (100 ml) and extracted with dichloromethane (3×50 ml). The combined extracts were then dried over magnesium sulphate and evaporated in vacuo to give the title compound (1.2 g) as a pale yellow oil.

reactant | 4-(4-Bromo-7-methoxyfuro[2,3-c]pyridin-2-yl)-4-methoxypiperidine-1-carboxylic acid tert-butyl ester | 1.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(OC)C1=CC=2C(=C(N=CC2Br)OC)O1 | C19H25BrN2O5
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
product | 4-Bromo-7-methoxy-2-(4-methoxypiperidin-4-yl)furo[2,3-c]pridine | 1.2 g | BrC1=C2C(=C(N=C1)OC)OC(=C2)C2(CCNCC2)OC | C14H17BrN2O3
